US03956363
A mixture of the indanone above (5.0 gm.), methanesulfonyl chloride (3.7 gm.) and potassium carbonate (5.0 gm.) in acetone (50 ml.) is refluxed for 24 hrs. Ether (100 ml.) is added and the ether layer washed with water (2 × 50 ml.), dried (MgSO4), filtered and evaporated to dryness to give the 6-methanesulfonyloxy-2-methylindanone (5.0 gm.) as a yellow oil.

reactant | indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | methanesulfonyl chloride | 3.7 gm | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium carbonate | 5.0 gm | C([O-])([O-])=O.[K+].[K+]
reactant | Ether | 100 ml | CCOCC | C4H10O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 6-methanesulfonyloxy-2-methylindanone | 5.0 gm | CS(=O)(=O)OC1=CC=C2CC(C(C2=C1)=O)C | C11H12O4S
